US07691867B2
Phosphoryl chloride (3.7 ml, 40 mmol) was added to a solution of 5-isopropoxy-4-oxo-3,4-dihydroquinazolin-7-yl acetate (2.6 g, 10 mmol) and di-iso-propylethylamine (14 ml, 80 mmol) in 1,2-dichloroethane (75 ml) and the reaction was heated at 80° C. for 1 hour. The mixture was evaporated under reduced pressure and the residue suspended in dimethylacetamide (30 ml). 2-(4-Amino-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide (2.5 g, 10 mmol) was added and the mixture was then heated at 90° C. for 1 hour. The mixture was evaporated under reduced pressure and the residue stirred in a 7N solution of ammonia in methanol (100 ml) at ambient temperature for 2 hours. The mixture was evaporated under reduced pressure to leave a yellow solid which was stirred in water (50 ml) for 1 hour, then filtered and the residue purified by silica gel chromatography eluting with a 0 to 10% mixture of methanol in dichloromethane to give N-(2,3-difluorophenyl)-2-{4-[(7-hydroxy-5-isopropoxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide (2.7 g, 60% yield):

reactant | Phosphoryl chloride | 40 mmol, 3.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-isopropoxy-4-oxo-3,4-dihydroquinazolin-7-yl acetate | 10 mmol, 2.6 g | C(C)(=O)OC1=CC(=C2C(NC=NC2=C1)=O)OC(C)C | C13H14N2O4
reactant | di-iso-propylethylamine | 80 mmol, 14 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(4-Amino-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide | 10 mmol, 2.5 g | NC=1C=NN(C1)CC(=O)NC1=C(C(=CC=C1)F)F | C11H10F2N4O
solvent | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
solvent | water | 50 ml | O | H2O
product | N-(2,3-difluorophenyl)-2-{4-[(7-hydroxy-5-isopropoxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide | 2.7 g, 60% yield | FC1=C(C=CC=C1F)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC(=C12)OC(C)C)O)=O | C22H20F2N6O3
